US05977178
To a solution of 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (5.0 g, 25 mmol) and rhodium(II)acetate (180 mg) in 500 ml dichloroethane at 80° C. was added (over 90 min) ethyl diazoacetate (4.2 ml, 50 mmol) in 220 ml dichloroethane. The mixture was stirred for 7 h and quenched with aqueous sodium bicarbonate (2×100 ml). The organic phase was isolated and washed with brine (2×100 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (80g) in petroleum ether:ethyl acetate (4:1) to give 3.4 g of 4-(ethoxycarbonylmethoxy)piperidine-1-carboxylic acid tert-butylester. The product was taken up in 40 ml of a 1 M lithium hydroxide solution in water:methanol (1:3) and stirred for 60 min. The mixture was concentrated in vacuo and dissolved in 20 ml of water, acidified to pH 4 with 1M aqueous hydrogen chloride and extracted with ethyl acetate (3×30 ml). The combined organic layers were washed with brine (10 ml), dried over magnesium sulfate and concentrated in vacuo to give 1.79 g of 4-(carboxymethoxy)piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 25 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | ethyl diazoacetate | 50 mmol, 4.2 ml | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloroethane | 500 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 220 ml | ClC(C)Cl | C2H4Cl2
catalyst | rhodium(II)acetate | 180 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 4-(ethoxycarbonylmethoxy)piperidine-1-carboxylic acid tert-butylester | 3.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(=O)OCC | C14H25NO5
